US04038401
4-Benzamido-1-[4-(indol-3-yl)-4-oxobutyl]piperidine
A mixture of 3-(4-chlorobutyryl)indole (22.2g. 0.1 mol.) and 4-benzamidopiperidine (40.8g. 0.2 mol.) was stirred and heated at 160° C. for 1 hour. The melt was cooled and extracted under reflux with water (200 ml.) for 0.5 hour. The insoluble granular residue was collected by filtration and crystallised from a mixture of ethanol (150 ml) and water (50 ml.), with charcoal treatment, to yield the title compound (15.5 g. 40%). The hydrochloride was precipitated from a solution of the base, in ethanol by addition of ethanolic hydrogen chloride (16.2 g. 38%) m.p. 275°-6° C. C24H27N3O. HCl 1/4 H2O requires C, 67.0 H, 6.7; N, 9.8 Found: C, 67.0; H, 6.7; N, 9.7%. It can also be precipitated from a solution of the base in dimethylformamide by addition of ethanolic hydrogen chloride and propan-2-ol. This gives the anhydrous form of the title compound hydrochloride m.p. 285.5° C.

reactant | 3-(4-chlorobutyryl)indole | 0.1 mol, 22.2g | ClCCCC(=O)C1=CNC2=CC=CC=C12 | C12H12ClNO
reactant | 4-benzamidopiperidine | 0.2 mol, 40.8g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
product | 4-Benzamido-1-[4-(indol-3-yl)-4-oxobutyl]piperidine | 15.5 g, 40% | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC(=O)C1=CNC2=CC=CC=C12 | C24H27N3O2
